US07423030B2
32.2. 7-Methoxy-4-methyl-2H-phthalazin-1-one
This compound is obtained according to the procedure described in 1.2. by reacting unpurified 2-acetyl-5-methoxybenzoic acid with hydrazine hydrate.

reactant | 2-acetyl-5-methoxybenzoic acid | C(C)(=O)C1=C(C(=O)O)C=C(C=C1)OC | C10H10O4
reactant | hydrazine hydrate | O.NN
product | 7-Methoxy-4-methyl-2H-phthalazin-1-one | COC1=CC=C2C(=NNC(C2=C1)=O)C | C10H10N2O2
